US03992428
A mixture containing 750 parts by volume of hexamethyldisilazane, 750 parts by volume of toluene, 180 parts urea and 0.5 part of ammonium chloride is heated to reflux temperature (approx. 110° C.). After refluxing for 1.25 hours the evolution of ammonia has stopped and the reaction is considered to be complete. The product is cooled, filtered andthe filtered residue dried at 12 mm Hg (abs.). Approximately 603 parts (98.4 percent of theoretical) of bis-(trimethylsilyl-)urea having a purityin excess of 99 percent by weight are obtained.

reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | urea | NC(=O)N | CH4N2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | bis-(trimethylsilyl-)urea | 98.4 percent | C[Si](C)(C)NC(N[Si](C)(C)C)=O | C7H20N2OSi2
